US09315521B2
The title compound was prepared by following the procedure described for Example 55. 5-(pyridin-3-yl)pyridine-3-carbaldehyde provided [5-(pyridin-3-yl)pyridin-3-yl]methanol, which was reacted with phosphorus tribromide to give 3-(bromomethyl)-5-(pyridin-3-yl)pyridine. The reaction of 3-(bromomethyl)-5-(pyridin-3-yl)pyridine with 6-methyl-2-sulfanylpyrimidin-4-ol gave 6-methyl-2-({[5-(pyridin-3-yl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol as a white solid (0.18 g, 15% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.21 (s, 3H), 4.45 (s, 2H), 6.04 (bs, 1H), 7.54 (m, 1H), 8.24 (d, J=4.7 Hz, 1H), 8.30 (s, 1H), 8.63 (d, J=4.7 Hz, 1H), 8.64 (s, 1H), 8.83 (s, 1H), 8.93 (s, 1H); M+310.1.

reactant | 3-(bromomethyl)-5-(pyridin-3-yl)pyridine | BrCC=1C=NC=C(C1)C=1C=NC=CC1 | C11H9BrN2
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | CC1=CC(=NC(=N1)S)O | C5H6N2OS
product | 6-methyl-2-({[5-(pyridin-3-yl)pyridin-3-yl]methyl}sulfanyl)pyrimidin-4-ol | 0.18 g, 15% yield | CC1=CC(=NC(=N1)SCC=1C=NC=C(C1)C=1C=NC=CC1)O | C16H14N4OS
